US07018988B2
(2S,4EZ)-4-[(allyloxy)imino]-N-benzoyl-2-(4-morpholinylcarbonyl)-1-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(allyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, benzoyl isocyanate, and morpholine the title compound was obtained in 46% purity by LC/MS. MS(ESI+): m/z=401.2.

reactant | (2S,4EZ)-4-[(allyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C=C)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C13H20N2O5
reactant | benzoyl isocyanate | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | (2S,4EZ)-4-[(allyloxy)imino]-N-benzoyl-2-(4-morpholinylcarbonyl)-1-pyrrolidinecarboxamide | C(C=C)ON=C1C[C@H](N(C1)C(=O)NC(C1=CC=CC=C1)=O)C(=O)N1CCOCC1 | C20H24N4O5
